US09303040B2
A solution of LiOH hydrate (0.24 g, 5.7 mmol) in water (2 mL) was added to a stirred solution of tert-butyl 6-(4-chlorophenyl)-5-oxo-4-azaspiro[2.4]heptane-4-carboxylate (0.46 g, 1.4 mmol) in MeOH (2 mL) and THF (2 mL). The reaction was stirred at room temperature overnight. The solvents were evaporated in vacuo. The residue was taken up in water and extracted with ether (2×). The aqueous phase was acidified by 2N HCl and extracted with EtOAc. The combined organic phases were washed with brine, dried and concentrated to give 3-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)propanoic acid (0.41 g, 84%) as a white solid. LCMS (APCI+) [M-Boc+H]+ 240.0; Rf: 2.38 min.

reactant | LiOH hydrate | 5.7 mmol, 0.24 g | O[Li].O
reactant | tert-butyl 6-(4-chlorophenyl)-5-oxo-4-azaspiro[2.4]heptane-4-carboxylate | 1.4 mmol, 0.46 g | ClC1=CC=C(C=C1)C1C(N(C2(CC2)C1)C(=O)OC(C)(C)C)=O | C17H20ClNO3
solvent | water | 2 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)propanoic acid | 0.41 g, 84% | C(C)(C)(C)OC(=O)NC1(CC1)CC(C(=O)O)C1=CC=C(C=C1)Cl | C17H22ClNO4
